US08865707B2
A solution of sodium ethoxide (0.127 g, 1.87 mmol) in EtOH (5 mL) was treated with 3,5-bis(trifluoromethyl)benzoyl acetonitrile (0.500 g, 1.78 mmol) portionwise over 5 min. The reaction was heated at reflux for 30 min before the addition of methyl iodide (0.41 mL, 6.6 mmol). Heating at reflux was continued for a further 2 h before the reaction mixture was allowed to cool and concentrated in vacuo. The residue was partitioned between H2O (10 mL) and EtOAC (20 mL) and the aqueous phase was separated and re-extracted with EtOAC (2×20 mL). The combined organic extracts were washed with brine (25 mL), dried (MgSO4), filtered and concentrated. The crude product was purified by flash chromatography on silica gel (0-20% EtOAc in hexanes gradient) to afford 3-[3,5-bis(trifluoromethyl)phenyl]-2-methyl-3-oxopropanenitrile. 1H NMR (500 MHz, CDCl3) δ 8.21 (s, 2H), 8.10 (s, 1H), 4.42 (q, J=7.1 Hz, 1H), 1.71 (d, J=7.1 Hz, 6H).

reactant | sodium ethoxide | 1.87 mmol, 0.127 g | [O-]CC.[Na+]
reactant | 3,5-bis(trifluoromethyl)benzoyl acetonitrile | 1.78 mmol, 0.500 g | FC(C=1C=C(C(=O)CC#N)C=C(C1)C(F)(F)F)(F)F | C11H5F6NO
reactant | methyl iodide | 6.6 mmol, 0.41 mL | CI | CH3I
solvent | EtOH | 5 mL | CCO | C2H6O
product | 3-[3,5-bis(trifluoromethyl)phenyl]-2-methyl-3-oxopropanenitrile | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(C#N)C)=O)(F)F | C12H7F6NO
